US06548448B2
A mixture of 1.4 g (4.3 mmol) of 2-bromo-8-(phenyldimethylsilyl)-oct-1-ene, 3.2 g of 45% aqueous potassium hydroxide solution (25.6 mmol), 0.2 g N,N′-dibenzyl-N,N,N′,N′-tetraethylethylenediammonium dibromide, and 7.5 ml of methylene chloride was treated with 1.1 ml of bromoform (12.6 mmol). The well-stirred reaction mixture was held overnight at room temperature. Water and methylene chloride were added, the phases were separated. The methylene chloride phase was dried over magnesium sulfate, and stripped. A small amount of heptane was added during the strip to help remove remaining bromoform. Column chromatography gave 1.02 g of 2-(6-(phenyldimethylsilyl)-hexyl)-1,1,2-tribromocyclopropane as a colorless liquid.

reactant | 2-bromo-8-(phenyldimethylsilyl)-oct-1-ene | 4.3 mmol, 1.4 g | BrC(=C)CCCCCC[Si](C)(C)C1=CC=CC=C1 | C16H25BrSi
reactant | potassium hydroxide | 25.6 mmol, 3.2 g | [OH-].[K+]
reactant | N,N′-dibenzyl-N,N,N′,N′-tetraethylethylenediammonium dibromide | 0.2 g | [Br-].[Br-].C(C1=CC=CC=C1)[N+](CC[N+](CC)(CC)CC1=CC=CC=C1)(CC)CC
reactant | bromoform | 12.6 mmol, 1.1 ml | C(Br)(Br)Br | CHBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
solvent | methylene chloride | 7.5 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-(phenyldimethylsilyl)-hexyl)-1,1,2-tribromocyclopropane | 1.02 g | C1(=CC=CC=C1)[Si](CCCCCCC1(C(C1)(Br)Br)Br)(C)C | C17H25Br3Si
